US08748415B2
2-fluoro-4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-5a,5b,8,8,11a-pentamethyl-3a-((2-(2-oxopyrrolidin-1-yl)ethylamino)methyl)-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid
The title compound was prepared in 60% yield following steps 5 and 6, using methyl 2-fluoro-4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-formyl-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate and 1-(2-aminoethyl)pyrrolidin-2-one oxalate as the reactant amine MS: m/e 673.6 (MH+), 1.72 min (method 2). 1H NMR (400 MHz, MeOD) δ ppm 0.96 (s, 3H) 0.98 (s, 3H) 1.02 (s, 3H) 1.08 (s, 3H) 1.17 (s, 3H) 1.73 (s, 3H) 2.01-2.21 (m, 4H) 2.44 (t, J=8.16 Hz, 2H) 2.51 (td, J=10.79, 5.52 Hz, 1H) 2.94 (d, J=13.05 Hz, 1H) 3.30 (dt, J=3.26, 1.63 Hz, 3H) 3.55 (t, J=7.15 Hz, 2H) 3.58-3.70 (m, 2H) 4.62-4.67 (m, 1H) 4.76 (d, J=1.76 Hz, 1H) 5.35 (dd, J=6.27, 1.76 Hz, 1H) 6.94 (dd, J=11.92, 1.38 Hz, 1H) 7.02 (dd, J=8.03, 1.51 Hz, 1H) 7.83 (t, J=7.91 Hz, 1H). 19F NMR (376 MHz, MeOD) δ ppm −112.75 (s, 1 F).

reactant | methyl 2-fluoro-4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-formyl-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | FC1=C(C(=O)OC)C=CC(=C1)C=1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CC[C@@H]3[C@]2(CC1)C)[C@@H](CC5)C(=C)C)C=O)C)C)(C)C | C38H51FO3
reactant | 1-(2-aminoethyl)pyrrolidin-2-one oxalate | C(C(=O)O)(=O)O.NCCN1C(CCC1)=O
product | 2-fluoro-4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-5a,5b,8,8,11a-pentamethyl-3a-((2-(2-oxopyrrolidin-1-yl)ethylamino)methyl)-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | 60% yield | FC1=C(C(=O)O)C=CC(=C1)C=1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CC[C@@H]3[C@]2(CC1)C)[C@@H](CC5)C(=C)C)CNCCN5C(CCC5)=O)C)C)(C)C | C43H61FN2O3
